US05312721
3-(2,4-dichlorophenyl)-4-(4-fluorophenyl)-1,2,3,5-oxathiadiazole-2-oxide;
3-(3-chlorophenyl)-4-(4-trifluoromethylphenyl)-1,2,3,5-oxathiadiazole-2-oxide; 3-(3-chlorophenyl)-4-(2,6-dichlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide; 3-(2,4-dichlorophenyl)-4-(4-chlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide; 3-(3-chlorophenyl)-4-(2,4-chlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide; 3-(2,4-dichlorophenyl)-4-(4-trifluorophenyl)-1,2,3,5-oxathiadiazole-2-oxide; 3-(2,4-dichlorophenyl)-4-(2,4-dichlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide; 3-(2,4-dichlorophenyl)-4-(2,6-dichlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide.

reactant | 3-(3-chlorophenyl)-4-(4-trifluoromethylphenyl)-1,2,3,5-oxathiadiazole-2-oxide | ClC=1C=C(C=CC1)N1S(ON=C1C1=CC=C(C=C1)C(F)(F)F)=O | C14H8ClF3N2O2S
reactant | 3-(3-chlorophenyl)-4-(2,6-dichlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide | ClC=1C=C(C=CC1)N1S(ON=C1C1=C(C=CC=C1Cl)Cl)=O | C13H7Cl3N2O2S
reactant | 3-(2,4-dichlorophenyl)-4-(4-chlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide | ClC1=C(C=CC(=C1)Cl)N1S(ON=C1C1=CC=C(C=C1)Cl)=O | C13H7Cl3N2O2S
reactant | 3-(2,4-dichlorophenyl)-4-(2,4-dichlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide | ClC1=C(C=CC(=C1)Cl)N1S(ON=C1C1=C(C=C(C=C1)Cl)Cl)=O | C13H6Cl4N2O2S
reactant | 3-(2,4-dichlorophenyl)-4-(2,6-dichlorophenyl)-1,2,3,5-oxathiadiazole-2-oxide | ClC1=C(C=CC(=C1)Cl)N1S(ON=C1C1=C(C=CC=C1Cl)Cl)=O | C13H6Cl4N2O2S
product | 3-(2,4-dichlorophenyl)-4-(4-fluorophenyl)-1,2,3,5-oxathiadiazole-2-oxide | ClC1=C(C=CC(=C1)Cl)N1S(ON=C1C1=CC=C(C=C1)F)=O | C13H7Cl2FN2O2S
